US07312236B2
N-(3-(4-Dimethylamino-cyclohex-1-enyl)-phenyl)-4-fluoro-benzamide hydrochloride salt
Add 4-fluorobenzoyl chloride (155 mg, 0.976 mmol) to a solution of 3-(4-dimethylamino-cyclohex-1-enyl)-phenylamine (preparation 2, 176 mg, 0.814 mmol) in pyridine (8 mL) and heat at 55° C. overnight. Remove the volatile under reduced pressure, dissolve the residue in DCM, wash with 0.1N NaOH, dry over sodium sulfate, filter and concentrate to give a residue. Purify the residue by chromatography (silica gel, 8% 2M NH3/MeOH in DCM) to provide the free base of the title compound (203 mg, 74%): MS (ES): m/z=339.2 (M+H)+; 1H NMR (CDCl3): δ 7.92 (m, 3H), 7.70 (s, 1H), 7.52 (d, 1H), 7.32 (t, 1H), 7.18 (m, 3H), 6.12 (m, 1H), 2.50 (m, 4H), 2.37 (s, 6H), 2.13 (m, 2H), 1.57 (m, 1H).

reactant | 4-fluorobenzoyl chloride | 0.976 mmol, 155 mg | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 3-(4-dimethylamino-cyclohex-1-enyl)-phenylamine | 0.814 mmol, 176 mg | CN(C1CC=C(CC1)C=1C=C(C=CC1)N)C | C14H20N2
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | N-(3-(4-Dimethylamino-cyclohex-1-enyl)-phenyl)-4-fluoro-benzamide hydrochloride salt | 203 mg, 74% | Cl.CN(C1CC=C(CC1)C=1C=C(C=CC1)NC(C1=CC=C(C=C1)F)=O)C | InChI=1S/C21H23FN2O.ClH/c1-24(2)20-12-8-15(9-13-20)17-4-3-5-19(14-17)23-21(25)16-6-10-18(22)11-7-16;/h3-8,10-11,14,20H,9,12-13H2,1-2H3,(H,23,25);1H
